US04032321
A mixture of 142 g of 5-amino-4-cyano-3-isopropylisothiazole and 610 ml of dichloromethane was treated with 138 g of N-(dichloromethylene)-N,N-dimethylammonium chloride. The reaction mixture became warm during addition of the N-(dichloromethylene)-N,N-dimethylammonium chloride and was cooled in an ice-water bath to 31°. The reaction temperature was maintained at 30°-35° for one-half hour after addition was complete. The reaction mixture was then heated under reflux for an additional 44 hours. Nitrogen gas was then passed through the refluxing solution for 5 hours. The reaction mixture was allowed to cool to 15°-20° and filtered. The filter cake was washed with 150 ml of dichloromethane and dried to yield an unidentified white solid, mp 162°, which was discarded. The filtrate was washed with two 100-ml portions of saturated sodium bicarbonate solution, dried over anhydrous magnesium sulfate, filtered, and evaporated to near dryness under reduced pressure. The residue was dissolved in 2250 ml of hot hexane, filtered hot and allowed to cool to room-temperature. The hexane solution was decanted from an oil which separated on cooling. The hexane solution was placed in a cooler overnight. The cold solution was filtered and dried to yield 133.7 g of N'-(4-cyano-3-isopropyl-5-isothiazolyl)-N,N-dimethylchloroformamidine, mp 68°-71°. The ir and nmr spectra were consistent with the assigned structure.

reactant | 5-amino-4-cyano-3-isopropylisothiazole | 142 g | NC1=C(C(=NS1)C(C)C)C#N | C7H9N3S
reactant | N-(dichloromethylene)-N,N-dimethylammonium chloride | 138 g | [Cl-].ClC(=[N+](C)C)Cl
solvent | dichloromethane | 610 ml | ClCCl | CH2Cl2
product | N'-(4-cyano-3-isopropyl-5-isothiazolyl)-N,N-dimethylchloroformamidine | 133.7 g | C(#N)C=1C(=NSC1N=C(N(C)C)Cl)C(C)C | C10H13ClN4S
